US08372607B2
In order to synthesize α-benzyl-L-serine (Angew. Chem. Int. Ed. 2004, 43, 2382-2385), 1.41 ml of triethylamine was added to a methylene chloride solution in which 939.2 mg of ethyl benzimidate hydrochloride and 1 g of L-serine-tert-butyl ester hydrochloride had been dissolved. The mixture was heated and refluxed for 2.5 hours, and stirred at room temperature for 19 hours. 50 ml of methylene chloride was added to the reaction mixture, which was then washed twice with 20 mL of water, and dried on magnesium sulfate. Magnesium sulfate was removed, and then the solvent was evaporated. A residue was purified by silica gel chromatography (hexane/ethyl acetate, 5/1 to 4/1). After evaporating the solvent, 759 mg of 2-phenyl-2-oxazoline-4-carboxylate tert-butyl ester was yielded. 0.12 ml of benzyl bromide was added to a toluene solution in which 52.4 mg of 2-phenyl-2-oxazoline-4-carboxylate tert-butyl ester, 56.1 mg of potassium hydroxide and 9.55 mg of (S,S)-3,4,5-trifluorophenyl-NAS bromide (Wako Pure Chemical Industries Ltd., code number: 201-16401) had been suspended. The resulting mixture was stirred at 0° C. for 8 hours. 20 ml of ethyl acetate was added to the reaction mixture, which was then washed twice with 5 mL of water, and dried on magnesium sulfate. Magnesium sulfate was removed, and then the solvent was evaporated. A residue was purified by silica gel chromatography (hexane/ethyl acetate, 8/1 to 5/1). After evaporating the solvent, 51 mg of 4-benzyl 2-phenyl-2-oxazoline-4-carboxylate tert-butyl ester was obtained. This was analyzed by HPLC using CHIRALPAK OD-H (4.6×250 mm) (Mobile phase: hexane/isopropyl alcohol=99/1, column temperature: room temperature, flow rate: 1 ml/minute, detection: UV 210 nm), and its optical purity was 98.4% e.e. 1 ml of ethanol and 0.5 ml of a 6 N sodium hydroxide solution were added to 42 mg of 4-benzyl 2-phenyl-2-oxazoline-4-carboxylic acid tert-butyl ester, which was then heated and refluxed for 1 hour. Then 1 ml of 6 N HCl was added, and the reaction mixture was heated and refluxed for 2 hours. The reaction mixture was neutralized and impurities were removed to obtain a solution containing α-benzyl-L-serine.

reactant | α-benzyl-L-serine | C(C1=CC=CC=C1)[C@](N)(CO)C(=O)O | C10H13NO3
reactant | triethylamine | 1.41 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl benzimidate hydrochloride | 939.2 mg | Cl.C(C1=CC=CC=C1)(OCC)=N
reactant | L-serine-tert-butyl ester hydrochloride | 1 g | Cl.C(C)(C)(C)OC([C@@H](N)CO)=O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-2-oxazoline-4-carboxylate tert-butyl ester | 759 mg | C(C)(C)(C)OC(=O)C1N=C(OC1)C1=CC=CC=C1 | C14H17NO3
